US07794619B2
Glycerin (250 g), acetone (522 g) and 800 mL of toluene were charged into a 2 L four-neck flask to which a thermometer, a nitrogen inlet tube, a stirrer and a dehydrating column with a condenser were attached, and then, methane sulfonic acid (26 g) was added thereto and refluxed for 30 hours while removing the distilled water. Next, a potassium hydroxide solution was added to neutralize the reaction mixture. The reaction product was washed with ion exchanged water five times, and after that, the toluene was distilled off under reduced pressure, and thus, 298 g of 4-hydroxymethyl-2,2-dimethyl-1,3-dioxolan was obtained.

reactant | Glycerin | 250 g | OCC(O)CO | C3H8O3
reactant | acetone | 522 g | CC(=O)C | C3H6O
reactant | methane sulfonic acid | 26 g | CS(=O)(=O)O | CH4O3S
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxymethyl-2,2-dimethyl-1,3-dioxolan | 298 g | OCC1OC(OC1)(C)C | C6H12O3
